US07157447B2
Additional procedure. ZnCl2 (352.3 g 2.59 moles) was added to a 2 L round bottom flask equipped with a mechanical stirrer, nitrogen inlet-outlet, temperature probe, and condenser. Acetone cyanohydrin (110.0 g 1.29 moles) was slowly added to the stirred solid over 30 minutes keeping the temperature below 32° C. with external cooling. To the slurry, 2-chloroethanol (124.9 g 1.55 moles) was slowly added over 20 minutes keeping the temperature below 32° C. with external cooling. Acetone (3.75 g, 64.6 mmoles) was added and the mixture was heated to 60° C. After stirring for 4 h at 60° C., the reaction mixture was cooled to 30–35° C., diluted with water (1.10 L) and extracted with CH2Cl2 (1×440 mL and 1×220 mL). The combined CH2Cl2 extracts were washed with 0.5M sodium bicarbonate (330 mL), followed by water (3×330 mL). The dichloromethane solution was concentrated under vacuum to afford crude product (109 g). The crude product was purified by vacuum distillation (10 mm Hg) using a Vigreux column. The fraction boiling at 60–80° C. was collected to afford 2-(2-chloroethoxy)-2-methylpropanenitrile as colorless oil (88.7 g).

reactant | Acetone cyanohydrin | 1.29 moles, 110.0 g | CC(C#N)(O)C | C4H7NO
reactant | 2-chloroethanol | 1.55 moles, 124.9 g | ClCCO | C2H5ClO
reactant | Acetone | 64.6 mmoles, 3.75 g | CC(=O)C | C3H6O
solvent | water | 1.10 L | O | H2O
catalyst | ZnCl2 | 2.59 moles, 352.3 g | [Cl-].[Cl-].[Zn+2]
product | 2-(2-chloroethoxy)-2-methylpropanenitrile | 88.7 g | ClCCOC(C#N)(C)C | C6H10ClNO
